US08022062B2
4-(2′-Fluorophenoxy)-benzonitrile:
Mix under argon atmosphere 4-bromobenzonitrile (2.0 g, 11.3 mmol), 2-fluorophenol (2.5 g, 22.6 mmol), 2,2,6,6-tetramethylheptane-3,5-dione (203 mg, 1.1 mmol), and cesium carbonate (7.4 g, 22.6 mmol) in anhydrous NMP (19 mL). Degas the flask, fill with argon and add copper(I) chloride (554 mg, 5.6 mmol) quickly. Degas the flask then fill with argon and heat at 120° C. for 3 h. Cool to ambient temperature, dilute with EtOAc, filter and wash the filtrate sequentially with 2M aqueous HCl, 0.3M aqueous HCl, 2M aqueous NaOH and brine. Separate the organic layer, dry over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 9:1) to obtain the desired intermediate (1.6 g, 66%). MS (ES+) m/z: 231 (M+NH4)+.

reactant | 4-bromobenzonitrile | 11.3 mmol, 2.0 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 2-fluorophenol | 22.6 mmol, 2.5 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 1.1 mmol, 203 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 22.6 mmol, 7.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 19 mL | CN1CCCC1=O | C5H9NO
catalyst | copper(I) chloride | 5.6 mmol, 554 mg | [Cu]Cl
product | 4-(2′-Fluorophenoxy)-benzonitrile | 1.6 g, 66% | FC1=C(OC2=CC=C(C#N)C=C2)C=CC=C1 | C13H8FNO
